US08022075B2
1-[4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-ethanone (9)
Manganese dioxide (691 mg) was added to a solution of 1-[4-(6-iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-ethanol (579 mg) in chloroform (50 mL), and the mixture was refluxed for 8 hours. The reaction mixture was filtered through Celite, and the mother liquor was concentrated. The residue was purified through silica gel column chromatography (dichloromethane:methanol=95:5), followed by concentration under reduced pressure, to thereby yield the title compound (371 mg).

reactant | 1-[4-(6-iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-ethanol | 579 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C(C)O | C15H13IN2O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 691 mg | [O-2].[O-2].[Mn+4]
product | 1-[4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-ethanone | 371 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C(C)=O | C15H11IN2O
